US05859007
To a stirring solution of 36.2 g (0.26 mol) of 2-Fluoroacetophenone in 120 mL of ethylene glycol is added 8.6 mL (0.27 mol, 1.05 equiv.) of hydrazine. The resulting solution is stirred 2 h at RT and then heated at 165° C. for 40 h. The solution is cooled to RT, poured into CH2Cl2 (200 mL) and extracted with H2O (2×200 mL). The organic layers were combined, dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by recrystallization form hexane/CHCl3 afforded 26 g of 3-Methylindazole as a light tan solid: 1H NMR (CDCl3, 300 MHz) δ7.73 (d, 1H, J=8.1), 7.44 (m, 2H), 7.19 (dd, 1H, J=7.0,7.0), 2.67 (s, 3H).

reactant | 2-Fluoroacetophenone | 0.26 mol, 36.2 g | FCC(=O)C1=CC=CC=C1 | C8H7FO
reactant | hydrazine | 0.27 mol, 8.6 mL, 1.05 equiv. | NN | H4N2
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ethylene glycol | 120 mL | C(CO)O | C2H6O2
product | 3-Methylindazole | 26 g | CC1=NNC2=CC=CC=C12 | C8H8N2
